US05124478
Ethyl 3-[2,4-dimethoxy-5-(4-methoxybenzoyl)phenyl]propionate
52 g of aluminum trichloride are suspended in 200 ml of 1,2-dichloroethane and cooled to 0° C. Then, at this temperature, 66.5 g of 4-methoxybenzoyl chloride are added dropwise, followed by 94.7 g of ethyl 2,4-dimethoxyhydrocinnamate in 30 ml of 1,2-dichloroethane. The mixture is then heated at 50° C. with exclusion of moisture until the reaction is complete. The reaction mixture is then poured onto ice-water, and the organic phase is separated off, diluted with 200 ml of methylene chloride and then extracted with sodium bicarbonate solution and water. It is dried over magnesium sulfate and concentrated. A gray-brown solid remains and is immediately reacted further.

reactant | aluminum trichloride | 52 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 4-methoxybenzoyl chloride | 66.5 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | ethyl 2,4-dimethoxyhydrocinnamate | 94.7 g | COC1=C(CCC(=O)OCC)C=CC(=C1)OC | C13H18O4
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | Ethyl 3-[2,4-dimethoxy-5-(4-methoxybenzoyl)phenyl]propionate | COC1=C(C=C(C(=C1)OC)C(C1=CC=C(C=C1)OC)=O)CCC(=O)OCC | C21H24O6
